US08026234B2
Compound 43: N-(azetidin-3-yl)-4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and 1-N—Boc 3-amino azetidine. The final compound was purified by reverse phase HPLC and basified to give the free base. Further, after washing with water (10 ml), t-butoxycarbonyl (Boc) protection group was removed using 40% TFA in dichloromethane (6 ml) and purified the product using preparative HPLC. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.22-1.85 (m, 10H) 3.32 (s, 3H) 3.35-3.41 (m, 1H) 3.79 (br. s., 2H) 3.95 (s, 3H) 4.01-4.11 (m, 4H) 4.47 (m, 1H) 7.45-7.58 (m, 2H) 7.93 (s, 1H) 8.22 (s, 1H) 8.30 (d, J=8.1 Hz, 1H) 8.86 (br. d., 1H). [M+H] calculated for C25H31F2N7O3, 516. found 516.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-N—Boc 3-amino azetidine | C(=O)(OC(C)(C)C)N1CC(C1)N | C8H16N2O2
product | N-(azetidin-3-yl)-4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzamide | N1CC(C1)NC(C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCCC2)N1)OC)=O | C25H31F2N7O3
